US04000315
To 14.0 ml. of anhydrous 1-pentanol in 100 ml. tetrahydrofuran is added 0.25 g. sodium. After the sodium has reacted, gaseous ethylene oxide (0.34 g.) is added at a rate such that the temperature is maintained between 35° and 40°. The flask is sealed and allowed to stand for one day. The reaction mixture is poured into water and then extracted with ether, dried over sodium sulfate, the solvent and the residue distilled and fractionated to yield 2-pentyloxy-1-ethanol.

reactant | 1-pentanol | C(CCCC)O | C5H12O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium | [Na] | Na
reactant | ethylene oxide | 0.34 g | C1CO1 | C2H4O
solvent | water | O | H2O
product | 2-pentyloxy-1-ethanol | C(CCCC)OCCO | C7H16O2
